US09192606B2
Synthesis of 1-(2,2-difluoro-1,3-benzodioxol-5-yl)-cyclopropanecarbonyl chloride
1-(2,2-difluoro-1,3-benzodioxol-5-yl)-cyclopropanecarboxylic acid (1.2 eq) is slurried in toluene (2.5 vol) and the mixture heated to 60° C. SOCl2 (1.4 eq) is added via addition funnel. The toluene and SOCl2 are distilled from the reaction mixture after 30 minutes. Additional toluene (2.5 vol) is added and distilled again.

reactant | 1-(2,2-difluoro-1,3-benzodioxol-5-yl)-cyclopropanecarboxylic acid | 1.2 eq | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)O)F | C11H8F2O4
reactant | SOCl2 | 1.4 eq | O=S(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2-difluoro-1,3-benzodioxol-5-yl)-cyclopropanecarbonyl chloride | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
